US05025031
Sulfamic acid 3-(methoxycarbonyl)phenyl ester
Following the procedure of Example 50, a reaction of 8.8 ml (0.10 mole) chlorosulfonyl isocyanate and 15.2 g (0.10 mole) of methyl 3-hydroxybenzoate in 200 ml of toluene was heated at reflux for 7.5 hr and worked up to obtain 10.53 g of solid, mp 145°-146° C.

reactant | chlorosulfonyl isocyanate | 0.10 mole, 8.8 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | methyl 3-hydroxybenzoate | 0.10 mole, 15.2 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 3-(methoxycarbonyl)phenyl ester | 10.53 g | COC(=O)C=1C=C(C=CC1)OS(N)(=O)=O | C8H9NO5S
